US07238716B2
To a mixture of 4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenol (2.70 g), ethyl 2-chloromethylnicotinate (1.74 g) and N,N-dimethylformamide (100 mL) was added sodium hydride (60%, oil, 0.42 g) under ice-cooling. The reaction mixture was stirred at room temperature for 2 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give ethyl 2-[[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenoxy]methyl]nicotinate as a colorless oil (2.45 g, 63%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | 4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenol | 2.70 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)O | C17H15NO3
reactant | ethyl 2-chloromethylnicotinate | 1.74 g | ClCC1=C(C(=O)OCC)C=CC=N1 | C9H10ClNO2
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.42 g | [H-].[Na+]
solvent | water | O | H2O
product | ethyl 2-[[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenoxy]methyl]nicotinate | 2.45 g, 63% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(OCC2=C(C(=O)OCC)C=CC=N2)C=C1 | C26H24N2O5
